US03941803
In the manner given in Preparation 44, 5-methyl-1-[α-(o-chlorophenyl)-o-tolyl]imidazole in acetic acid is heated with Jones reagent to give 2'-chloro-2-(5-methylimidazol-1-yl)benzophenone.

reactant | 5-methyl-1-[α-(o-chlorophenyl)-o-tolyl]imidazole | CC1=CN=CN1C1=C(C=CC=C1)CC1=C(C=CC=C1)Cl | C17H15ClN2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2'-chloro-2-(5-methylimidazol-1-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C=NC=C1C)=O | C17H13ClN2O
